US09422271B2
A mixture of 3-bromo-N-tert-butylbenzenesulfonamide (1.8 g, 6.17 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.88 g, 7.41 mmol, 1.2 eq), KOAc (1.51 g, 15.4 mmol, 2.5 eq), PdCl2(dppf)CH2Cl2 (504 mg, 0.62 mmol, 0.1 eq) in DMSO (1 mL) was flushed with nitrogen. 1, 4-Dioxane (40 mL) was added and the reaction mixture was stirred at 90° C. for 1 h. The reaction mixture cooled down to room temperature, filtered and the filtrate was washed with brine, dried (Na2SO4), filtered and concentrated. The residue was washed with isopropyl ether. The filtrate was concentrated and crystallized with petroleum ether to afford N-tert-butyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene sulfonamide (1.56 g, 75%). LC-MS (m/z)=340.0 [M+Na]+.

reactant | 3-bromo-N-tert-butylbenzenesulfonamide | 6.17 mmol, 1.8 g | BrC=1C=C(C=CC1)S(=O)(=O)NC(C)(C)C | C10H14BrNO2S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 7.41 mmol, 1.88 g, 1.2 eq | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 15.4 mmol, 1.51 g, 2.5 eq | CC(=O)[O-].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | N-tert-butyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene sulfonamide | 1.56 g, 75% | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C16H26BNO4S
